US03966773
Preparation of 2-(6-carbethoxy-5-oxahexyl)-2-cyclopentenone
In the manner described in Example 23, treatment of 2-(6-carboxy-5-oxahexyl)-2-cyclopentenone with p-toluenesulfonic acid in ethanol produces the subject product as a light yellow oil.

reactant | 2-(6-carboxy-5-oxahexyl)-2-cyclopentenone | C(=O)(O)COCCCCC=1C(CCC1)=O | C11H16O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 2-(6-carbethoxy-5-oxahexyl)-2-cyclopentenone | C(=O)(OCC)COCCCCC=1C(CCC1)=O | C13H20O4
